US08980877B2
(E)-3-[1′-Benzyl-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-acrylic acid methyl ester (540 mg, 1.48 mmol) was dissolved in acetic acid (10 ml), then 6 M HCl (10 ml) was added and the resulting suspension was heated to 85° C. for 4 h. The solvents were evaporated and the residue was dried under vacuum, giving (E)-3-[1′-benzyl-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-acrylic acid (490 mg, hydrochloride salt) as a light yellow solid.

reactant | (E)-3-[1′-Benzyl-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-acrylic acid methyl ester | 1.48 mmol, 540 mg | COC(\C=C\C=1C=C2C(CC3(CN(C3)CC3=CC=CC=C3)OC2=CC1)=O)=O | C22H21NO4
reactant | HCl | 6 M, 10 ml | Cl | ClH
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | (E)-3-[1′-benzyl-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-acrylic acid | 490 mg | C(C1=CC=CC=C1)N1CC2(C1)OC1=CC=C(C=C1C(C2)=O)/C=C/C(=O)O | C21H19NO4
